US08236976B2
Preparation of (S)-Non-4-en-3-ol (13)
The product was prepared by General procedure S using 50 mg (0.28 mmol) Cy2BH, 32 μL (0.28 mmol) 1-hexyne, 0.39 mL (0.78 mmol, 2.0 M in hexanes) Et2Zn, 2.4 mg (0.01 mmol) (−)-MIB, and 18 μL (0.25 mmol) propanal. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound as a colorless oil in 74% yield (26 mg, 0.18 mmol). [α]D20=+58.5 (c=0.97, CHCl3, 79% ee); 1H NMR (CDCl3, 500 MHz): δ 0.87 (m, 6H), 1.22-1.36 (m, 4H), 1.39 (br s, 1H), 1.43-1.57 (m, 2H), 2.00 (dt, 2H, J=7.0, 6.6 Hz), 3.94 (dt, 1H, J=6.6, 6.6 Hz), 5.41 (dd, 1H, J=15.3, 7.0 Hz), and 5.60 (dt, 1H, J=15.3, 6.7 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 9.7, 13.9, 22.2, 30.2, 31.4, 31.9, 74.6, 132.4, and 132.7 ppm; IR (neat): 3421, 2955, 2921, 2854, 2361, 2337, 1725, 1663, 1601, 1455, 1405, and 1259 cm−1; HRMS-CI m/z 141.1273 [(M−H)+; calcd for C9H17O: 141.1279].

reactant | Cy2BH | 0.28 mmol, 50 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 1-hexyne | 0.28 mmol, 32 μL | C#CCCCC | C6H10
reactant | Et2Zn | 0.78 mmol, 2.0 M, 0.39 mL | [Zn](CC)CC
reactant | propanal | 0.25 mmol, 18 μL | C(CC)=O | C3H6O
product | (S)-Non-4-en-3-ol | 74% yield | CC[C@@H](C=CCCCC)O | C9H18O
